US05837704
2-(1-Acetylpyrazol-4-yl)-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound (mp 186°-188° C.) was prepared from 5,11-dihydro-11-ethyl-5-methyl-2-(4-pyrazolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one by heating in acetic anhydride under reflux for 1 hour in the presence of potassium acetate.

reactant | 5,11-dihydro-11-ethyl-5-methyl-2-(4-pyrazolyl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)C=2C=NNC2 | C17H16N6O
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(1-Acetylpyrazol-4-yl)-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)(=O)N1N=CC(=C1)C=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC=C3)=O)C | C19H18N6O2
